US07479502B2
Proceeding as in Reference 19, but substituting methyl-3-formyl-4-hydroxy-5-bromophenylacetate (2.47 g, 9.0 mmol) and 2-methoxymethoxy-5-fluorophenylboronic acid (2.0 g, 10.0 mmol), gave methyl 5′-fluoro-5-formyl-6-hydroxy-2′-methoxymethoxy-biphenyl-3-yl)-acetate (2.2 g, 70%) as a yellow oil which crystallized overnight Proceeding as in Reference 19, but substituting tert-butyl [3-bromo-4-(2-methoxyethoxymethoxy)-benzyl]carbamate (2.3 g, 5.9 mmol) and 2-2-methoxyethoxymethoxy)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (60 mL, 0.1 M in toluene), gave tert-butyl [3′-formyl-6,2′-bis(2-methoxyethoxymethoxy)biphenyl-3-ylmethyl]carbamate (2.96 g).

reactant | tert-butyl [3-bromo-4-(2-methoxyethoxymethoxy)-benzyl]carbamate | 5.9 mmol, 2.3 g | BrC=1C=C(CNC(OC(C)(C)C)=O)C=CC1OCOCCOC | C16H24BrNO5
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 0.1 M, 60 mL | CC1(OB(OC1(C)C)C=1C=C(C=O)C=CC1)C | C13H17BO3
product | tert-butyl [3′-formyl-6,2′-bis(2-methoxyethoxymethoxy)biphenyl-3-ylmethyl]carbamate | 2.96 g | C(=O)C=1C(=C(C=CC1)C1=CC(=CC=C1OCOCCOC)CNC(OC(C)(C)C)=O)OCOCCOC | C27H37NO9
